US05023272
N-[3-(4-Morpholinyl)propanyl]-5-(4-bromophenyl)-2-furancarboxamide
A mixture of 4.06 g of 5-(4-bromphenyl)-2-furancarboxylic acid chloride and 2.55 g of N-(3-aminopropyl)morpholine is refluxed 6 hr with 3.0 g of anhydrous potassium carbonate in 50 ml of acetonitrile. The mixture is allowed to stir at room temperature overnight. Solvents are then evaporated and the residue is triturated with ethyl ether followed by evaporation again. This process is repeated several times. A solution of the residue in ethyl ether is allowed to stand overnight whereupon crystals are formed. After three recrystallizations from ethyl acetate, the product, 2.47 g (37.5%), melts at 8°-100° C. The CI and EI mass spec. are consistent with the proposed structure. The latter showed M+ =393.

reactant | 5-(4-bromphenyl)-2-furancarboxylic acid chloride | 4.06 g | BrC1=CC=C(C=C1)C1=CC=C(O1)C(=O)Cl | C11H6BrClO2
reactant | N-(3-aminopropyl)morpholine | 2.55 g | NCCCN1CCOCC1 | C7H16N2O
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N-[3-(4-Morpholinyl)propanyl]-5-(4-bromophenyl)-2-furancarboxamide | N1(CCOCC1)CCCNC(=O)C=1OC(=CC1)C1=CC=C(C=C1)Br | C18H21BrN2O3
